US05376684
2.0 g of sodium cyanoborohydride are added in portions to a solution of 6.27 g of 3-aminopropyl-(cyclohexylmethyl)-phosphinic acid and 5.0 g of 3,5-dichlorobenzaldehyde and 1.91 g of glacial acetic acid in 50 ml of anhydrous methanol and the mixture is stirred at room temperature for 4 days. The solvent is removed, the white residue is taken up in 2.0M hydrochloric acid and filtered. The filtrate is concentrated to dryness by evaporation and the white solid that remains behind is suspended in ethyl acetate, filtered off and crystallised from propanol, yielding 3-[(3,5-dichlorobenzyl)-amino]-propyl-(cyclohexylmethyl)-phosphinic acid, m.p. 231°-233°.

reactant | sodium cyanoborohydride | 2.0 g | C(#N)[BH3-].[Na+]
reactant | 3-aminopropyl-(cyclohexylmethyl)-phosphinic acid | 6.27 g | NCCCP(O)(=O)CC1CCCCC1 | C10H22NO2P
reactant | 3,5-dichlorobenzaldehyde | 5.0 g | ClC=1C=C(C=O)C=C(C1)Cl | C7H4Cl2O
reactant | acetic acid | 1.91 g | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 3-[(3,5-dichlorobenzyl)-amino]-propyl-(cyclohexylmethyl)-phosphinic acid | ClC=1C=C(CNCCCP(O)(=O)CC2CCCCC2)C=C(C1)Cl | C17H26Cl2NO2P
